US08669266B2
(ii) 4-[(S)-2-tert-Butoxycarbonylamino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 110 mg (S)-2-tert-Butoxycarbonylamino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionic acid in 2 ml DMF were added 0.07 ml DIPEA, 107 mg HATU and 50 mg Piperazine-1-carboxylic acid butyl ester. After stirring for 2 h the reaction mixture was concentrated, diluted with DCM and washed with aqueous LiCl (4%). The crude product obtained was used without further purification. Yield: 146 mg.

reactant | (S)-2-tert-Butoxycarbonylamino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionic acid | 110 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1C(=NOC1C)O | C12H18N2O6
reactant | DIPEA | 0.07 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 107 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Piperazine-1-carboxylic acid butyl ester | 50 mg | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-[(S)-2-tert-Butoxycarbonylamino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC=1C(=NOC1C)O)NC(=O)OC(C)(C)C)=O | C21H34N4O7
